US07713993B2
A solution of 4 N hydrogen chloride in ethyl acetate (30 mL) was added to tert-butyl N′-[6-chloro-2-(3,4,5-trifluorophenyl)hexanoyl]hydrazinecarboxylate synthesized according to the method described in Examples 112 and 113 (ESI-MS; m/z 417 [M++Na], 2.08 g). The reaction solution was stirred at room temperature for one hour and then concentrated under reduced pressure to obtain 6-chloro-2-(3,4,5-trifluorophenyl)hexanoic acid hydrazide hydrochloride (1.81 g). IPEA (1.5 mL), (E)-3-[3-methoxy-4-(4-methylimidazol-1-yl)phenyl]acrylic acid (450 mg) and BOPCl (0.53 g) were added to a solution of 6-chloro-2-(3,4,5-trifluorophenyl)hexanoic acid hydrazide hydrochloride (612 mg) in methylene chloride (15 mL) at room temperature, and the reaction solution was stirred at room temperature for three hours. Water was added to the reaction solution, followed by extraction with chloroform. The resulting extract washed with a saturated sodium chloride solution, dried over magnesium sulfate and then concentrated under reduced pressure. A solution of the resulting residue in phosphorus oxychloride (8 mL) was heated under reflux for three hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the resulting residue, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 430 mg of the title compound. The property value of the compound is as follows.

reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | tert-butyl N′-[6-chloro-2-(3,4,5-trifluorophenyl)hexanoyl]hydrazinecarboxylate | ClCCCCC(C(=O)NNC(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)F)F | C17H22ClF3N2O3
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-2-(3,4,5-trifluorophenyl)hexanoic acid hydrazide hydrochloride | 1.81 g | Cl.ClCCCCC(C(=O)NN)C1=CC(=C(C(=C1)F)F)F | InChI=1S/C12H14ClF3N2O.ClH/c13-4-2-1-3-8(12(19)18-17)7-5-9(14)11(16)10(15)6-7;/h5-6,8H,1-4,17H2,(H,18,19);1H
